US05665718
0.34 ml (3.45 mmol) of piperidine was added to a suspension of 400 mg (1.15 mmol) of (S)-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-11,11a-dihydro-8H, 10H-azeto[1,2-a]-imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one in 10 ml of N,N-dimethylformamide and the mixture was stirred at room temperature for 12 hours. The solution was evaporated and the residue was partitioned between methylene chloride and 2N sodium carbonate solution. The aqueous solution was extracted with methylene chloride and the organic phases were dried, filtered and evaporated. The residue was chromatographed (silica gel, methyl acetate/methanol 15:1). There were obtained 375 mg (82%) of (S)-1-(5-piperidin-1-ylmethyl-1,2,4-oxadiazol-3-yl)-11,11a-dihydro-8H, 10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e]-[1,4]diazepin-8-one as a colourless foam, Rf=0.22 (silica gel, methyl acetate/methanol 15:1).

reactant | piperidine | 3.45 mmol, 0.34 ml | N1CCCCC1 | C5H11N
reactant | (S)-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-11,11a-dihydro-8H, 10H-azeto[1,2-a]-imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one | 1.15 mmol, 400 mg | ClCC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | C14H10ClN5O2S
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (S)-1-(5-piperidin-1-ylmethyl-1,2,4-oxadiazol-3-yl)-11,11a-dihydro-8H, 10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e]-[1,4]diazepin-8-one | 375 mg, 82% | N1(CCCCC1)CC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | C19H20N6O2S
